US08232426B2
b.2.1:1-Benzylcyclopropylamine
To a solution of phenylacetonitrile (3 g, 25.61 mmol) and tetraisopropylorthotitanate (8 ml, 27.15 mmol) in diethyl ether (Et2O)/tetrahydrofuran (THF) (1/1, 100 ml) ethyl-magnesiumbromide (49.33 mmol) was added at room temperature. The exothermic mixture was stirred for 1 h at room temperature. Then BF3×Et2O (49.34 mmol) was added and the mixture was stirred for 1 h. The mixture was poured into a cold aqueous solution of NaOH (10%) and diluted with ethyl acetate. The mixture was filtered, and the organic layer was washed with water and brine, dried over MgSO4, filtered, and the solvent evaporated under reduced pressure to give the product as a yellow oil (3.6 g, 96%).

reactant | phenylacetonitrile | 25.61 mmol, 3 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | ethyl-magnesiumbromide | 49.33 mmol | C(C)[Mg]Br
reactant | BF3 | B(F)(F)F | BF3
reactant | NaOH | [OH-].[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Et2O | 49.34 mmol | CCOCC | C4H10O
product | 1-Benzylcyclopropylamine | 3.6 g, 96% | C(C1=CC=CC=C1)C1(CC1)N | C10H13N
